Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
swollen lymph nodes
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male without significant PMH presenting with two 
weeks of swollen lymph nodes in his neck, axilla and groin as 
well as easy bruising and intermittent chills.  He reports he 
was in his usual state of health when he began noticing some 
pain in his left neck, this was followed by swelling in the left 
and right neck as well as more recently in his bilateral arm 
pits and groin.  He has been having intermittent chills, denies 
fevers, sweats or weight loss.  He denies sore throat, cough, 
sick contacts, recent travel (last travel outside the country ___ 
years ago on a cruise to the ___).  Denies ever having 
mono previously.  He has noticed some easy bruising diffusely 
last week and reports significant bleeding after he picked at a 
pimple as well as easy bruising from gums when brushing his 
teeth.  Denies nose bleeds, blood in stool, dark stool or blood 
in urine.  Reports bruising has resolved.  

He presented to ___, a mono-spot was sent which was 
positive, transferred to ___.  In the ED his blood work was 
remarkable for WBC 11.3, platelet count 112, LDH 257.  CT neck 
showed extensive cervical lymphadenopathy concerning for 
possible lymphoma.  CT chest showed mild mediastinal 
lymphadenopathy, soft tissue in anterior mediastinum and small 
cavitary lesions involving all lobe of the lung concerning for 
infection, most likely fungal infection.

Currently he reports feeling well aside from mild left sided 
neck pain.  Denies SOB, CP, cough, abdominal pain, n/v, 
diarrhea, dysuria, leg swelling, joint swelling or pain, current 
rashes.

He reports he has been healthy his whole life without prior 
hospitalizations or significant infections, in ___ he 
developed SOB and collapsed, EMS was called and he was given 
epinephrine, Benadryl and Solumedrol for concern for an allergic 
reaction, seen in ___, CXR showed patchy left hilar 
fullness concerning for early infection, he was discharged home. 
 In ___ he had a cough, CXR showed slight asymmetry of 
hilum of lungs without clear infiltrate, a CT was recommended if 
symptoms did not improve.  He was given a course of azithromycin 
with resolution of his symptoms.  

ROS: as above, ten point ROS otherwise negative.
 
Past Medical History:
None
 
Social History:
___
Family History:
Grandfather had throat cancer.  Uncle died from complication of 
asthma.  Denies any other family history of cancer, history of 
leukemia or lymphoma, history of heart disease.
 
Physical Exam:
Admission PE:
VS: 98.5 125 / 62 64 18 99 RA
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
Neck: multiple tender enlarged lymph nodes bilaterally, largest 
on left posterior neck
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Axilla: bilateral non-tender enlarged axillary nodes
Abd: soft, NT, ND, no appreciable hepatosplenomegaly
Groin: bilateral non-tender enlarged inguinal nodes
GU: normal external genitalia, no testicular masses appreciated
Ext: no c/c/e
Skin: warm, dry no rashes, no petechiae or bruising
Neuro: CN II-XII intact, ___ strength throughout
Psych: pleasant, normal affect 

Discharge PE:
98.1 144 / 72 72 18 98 RA 
Gen: NAD, resting comfortably in bed
HEENT: EOMI, PERRLA, MMM, OP clear
Neck: multiple tender enlarged lymph nodes bilaterally, largest 
on left posterior neck
CV: RRR nl s1s2 no m/r/g
Resp: CTAB no w/r/r
Axilla: bilateral non-tender enlarged axillary nodes
Abd: soft, NT, ND, no appreciable hepatosplenomegaly
Groin: bilateral non-tender enlarged inguinal nodes
Ext: no c/c/e
Skin: warm, dry no rashes, no petechiae or bruising
Neuro: CN II-XII intact, ___ strength throughout
Psych: pleasant, normal affect 
 
Pertinent Results:
___ 02:06AM   LACTATE-1.2
___ 02:00AM   GLUCOSE-91 UREA N-14 CREAT-1.0 SODIUM-140 
POTASSIUM-3.6 CHLORIDE-107 TOTAL CO2-23 ANION GAP-14
___ 02:00AM   ALT(SGPT)-23 AST(SGOT)-23 LD(LDH)-257* ALK 
PHOS-85 TOT BILI-0.3
___ 02:00AM   LIPASE-22
___ 02:00AM   ALBUMIN-4.3 CALCIUM-8.8 PHOSPHATE-3.1 
MAGNESIUM-2.0 URIC ACID-6.5
___ 02:00AM   WBC-11.3* RBC-4.33* HGB-13.1* HCT-38.2* 
MCV-88 MCH-30.3 MCHC-34.3 RDW-12.4 RDWSD-40.0
___ 02:00AM   NEUTS-41 BANDS-0 ___ MONOS-11 EOS-1 
BASOS-0 ATYPS-3* ___ MYELOS-0 AbsNeut-4.63 AbsLymp-5.31* 
AbsMono-1.24* AbsEos-0.11 AbsBaso-0.00*
___ 02:00AM   ___ PTT-27.9 ___

CT neck w/ contrast ___:
IMPRESSION:  
Extensive cervical adenopathy, with the largest lymph node 
conglomerate 
measuring 1.9 x 3.7 cm in the left level II station, findings 
are concerning for lymphoma, tissue sampling is recommended. 
RECOMMENDATION(S):  Tissue sampling for definitive diagnosis. 

CT chest w/ contrast ___:
IMPRESSION: 
1. Mildly enlarged mediastinal lymphadenopathy. 
2. Small cavitary lesions involving all lobes of the lungs, 
differential 
includes infectious etiologies, most likely fungal infection. 
3. Soft tissue involving the anterior mediastinum, likely a 
combination of 
residual thymic tissue and lymphadenopathy. 

___ 08:25AM BLOOD WBC-11.6* RBC-4.63 Hgb-13.6* Hct-40.3 
MCV-87 MCH-29.4 MCHC-33.7 RDW-12.5 RDWSD-40.0 Plt ___
___ 08:25AM BLOOD Neuts-30* Bands-0 ___ Monos-10 
Eos-0 Baso-0 Atyps-16* ___ Myelos-0 AbsNeut-3.48 
AbsLymp-6.96* AbsMono-1.16* AbsEos-0.00* AbsBaso-0.00*
___ 08:25AM BLOOD Plt Smr-LOW Plt ___
___ 08:25AM BLOOD Glucose-83 UreaN-11 Creat-1.0 Na-142 
K-3.9 Cl-107 HCO3-21* AnGap-18
___ 08:25AM BLOOD ALT-23 AST-24 LD(LDH)-293* AlkPhos-96 
TotBili-0.4
___ 08:25AM BLOOD Calcium-9.0 Phos-3.2 Mg-2.0 UricAcd-6.3
___ 03:25PM BLOOD calTIBC-298 Ferritn-187 TRF-229
___ 03:25PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 03:25PM BLOOD CRP-7.4*
___ 03:25PM BLOOD IgG-971 IgA-206 IgM-95
___ 03:25PM BLOOD HIV Ab-Negative
___ 03:25PM BLOOD HCV Ab-Negative
___ 01:00PM BLOOD HIV1 VL-NOT DETECT
 
Brief Hospital Course:
___ year old male without significant PMH presenting with two 
weeks of swollen lymph nodes in his neck, axilla and groin as 
well as easy bruising and intermittent chills.

#Diffuse lymphadenopathy
#Thrombocytopenia
#Atypical lymphocytes
#Anemia
Heme/onc was consulted in the ED and per heme/onc recs ID was 
consulted.  Concern for either Mono or a lymphoproliferative 
disorder.  Monospot positive.  He has no sore throat, fevers or 
sick contacts and the severe degree of lymphadenopathy, easy 
bruising and thrombocytopenia are concerning.  Also the finding 
of pulmonary cavitary lesions is concerning there may be a 
chronic process affecting his immune system.  He did not want to 
undergo the CT A/P that was recommended by Heme/onc as he was 
concerned about the radiation exposure and cost.  After 
extensive discussion with Heme/Onc and ID decision was made to 
consult general surgery to perform excisional lymph node biopsy. 
 Patient reported that he felt well and was adamant that he 
wanted to be discharged on the night of ___ and follow-up with 
surgery as an outpatient.  This was discussed with the patient 
and his mother at length and they both reported that he would be 
reliable in following up with the surgery team.  
-Follow-up with general surgery for excisional lymph node biopsy 
   
-F/u peripheral blood flow cytometry
-F/u EBV serologies
-ESR, CRP

#Pulmonary cavitary lesions
CT chest showing small cavitary lesions throughout all lung 
fields raising concern for fungal infection.  He has no clinical 
signs or symptoms of a lung infection and no known 
immunocompromised state (excluding above).  No significant 
travel history outside the country and no significant travel in 
___ or ___.  He has had in ___ and ___ 
a possible allergic reaction and possible pneumonia with CXR 
showing subtle abnormalities in the hila without clear 
consolidations.  ID was consulted.  HIV antibody and viral load 
negative, quantitative immunoglobulins normal.  A preliminary 
work-up for underlying fungal infections was started.  
-F/u b-d-glucan, galactomannan, urine histo and blasto antigen
-If he develops symptoms recommend further ID and pulmonary 
follow-up
-If he remains asymptomatic and work-up negative recommend 
repeat CT chest in 6 months to re-evaluate

#FEN/PPX: regular, ambulatory

Full code
Contact: ___ (mother) ___
Dispo: home
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diffuse lymphadenopathy
Diffuse pulmonary cavitary lesions concerning for possible 
fungal infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted with swollen lymph nodes, easy bruising and 
bleeding.  You were evaluated by the hematology-oncology and 
infectious disease services.  The general surgery team saw you 
for surgery to obtain a lymph node biopsy, please return to the 
hospital as they discussed to undergo the lymph node biopsy.
 
Followup Instructions:
___